US06020342
To a solution of 12 g of 7-methoxy-3-methyl-3,4-dihydroisoquinoline in 120 ml of dimethoxyethane was added 16 g of 2'-methyl-2-bromoacetophenone, and the mixture was stirred at room temperature for 14 hours. The resulting white powder was collected by filtration to give 13 g of 7-methoxy-3-methyl-2-(2-methylphenyl)-3,4-dihydroisoquinolinium bromide. A mixture of this white powder, 80 ml of acetic acid and 12.8 g of ammonium acetate was then refluxed for 3 hours. After being cooled, the reaction mixture was poured into water, rendered alkaline by the addition of a saturated sodium carbonate solution and extracted with ethyl acetate. The extract was washed with water and saturated saline, and dried over anhydrous magnesium sulfate. The drying agent was removed by filtration, and the solvent was removed under reduced pressure. The residue was purified by column chromatography on silica gel to give 5.3 g of the title compound as a yellow oily material.

reactant | 7-methoxy-3-methyl-3,4-dihydroisoquinoline | 12 g | COC1=CC=C2CC(N=CC2=C1)C | C11H13NO
reactant | 2'-methyl-2-bromoacetophenone | 16 g | CC1=C(C=CC=C1)C(CBr)=O | C9H9BrO
solvent | dimethoxyethane | 120 ml | C(OC)COC | C4H10O2
product | 7-methoxy-3-methyl-2-(2-methylphenyl)-3,4-dihydroisoquinolinium bromide | 13 g | [Br-].COC1=CC=C2CC([N+](=CC2=C1)C1=C(C=CC=C1)C)C | InChI=1S/C18H20NO.BrH/c1-13-6-4-5-7-18(13)19-12-16-11-17(20-3)9-8-15(16)10-14(19)2;/h4-9,11-12,14H,10H2,1-3H3;1H/q+1;/p-1
